* NGSPICE file created from opamp_6t_top.ext - technology: sky130A

.subckt diff_pair_5f8ec16b a_n1329_397# a_n1359_201# a_n1359_n2547# a_n1454_n2497#
+ a_n1329_n2497# a_n2146_n3104#
X0 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=4.9875 pd=21.95 as=2.625 ps=11 w=10.5 l=0.15
X1 a_n2146_n3104# a_n2146_n3104# a_n2146_n3104# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=4.9875 pd=21.95 as=39.9 ps=175.60001 w=10.5 l=0.15
X2 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X3 a_n2146_n3104# a_n2146_n3104# a_n2146_n3104# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=4.9875 pd=21.95 as=0 ps=0 w=10.5 l=0.15
X4 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X5 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X6 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X7 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X8 a_n2146_n3104# a_n2146_n3104# a_n2146_n3104# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=4.9875 pd=21.95 as=0 ps=0 w=10.5 l=0.15
X9 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X10 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X11 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X12 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=4.9875 ps=21.95 w=10.5 l=0.15
X13 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X14 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X15 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X16 a_n2146_n3104# a_n2146_n3104# a_n2146_n3104# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=4.9875 pd=21.95 as=0 ps=0 w=10.5 l=0.15
X17 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=4.9875 ps=21.95 w=10.5 l=0.15
X18 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X19 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X20 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=4.9875 ps=21.95 w=10.5 l=0.15
X21 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X22 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X23 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X24 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X25 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X26 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=4.9875 pd=21.95 as=2.625 ps=11 w=10.5 l=0.15
X27 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X28 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X29 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X30 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X31 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X32 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X33 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=4.9875 ps=21.95 w=10.5 l=0.15
X34 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X35 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X36 a_n1454_n2497# a_n1359_n2547# a_n1329_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=4.9875 pd=21.95 as=2.625 ps=11 w=10.5 l=0.15
X37 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X38 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=4.9875 pd=21.95 as=2.625 ps=11 w=10.5 l=0.15
X39 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X40 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X41 a_n1329_397# a_n1359_201# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X42 a_n1329_n2497# a_n1359_n2547# a_n1454_n2497# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
X43 a_n1454_n2497# a_n1359_201# a_n1329_397# a_n2146_n3104# sky130_fd_pr__nfet_01v8 ad=2.625 pd=11 as=2.625 ps=11 w=10.5 l=0.15
C0 a_n1359_n2547# a_n1329_397# 0.19533f
C1 a_n1359_n2547# a_n1359_201# 5.65966f
C2 a_n1454_n2497# a_n1359_n2547# 3.44864f
C3 a_n1329_n2497# a_n1359_n2547# 4.01637f
C4 a_n1329_397# a_n1359_201# 4.2285f
C5 a_n1454_n2497# a_n1329_397# 34.9908f
C6 a_n1329_n2497# a_n1329_397# 1.2131f
C7 a_n1454_n2497# a_n1359_201# 3.46133f
C8 a_n1329_n2497# a_n1359_201# 0.40698f
C9 a_n1329_n2497# a_n1454_n2497# 35.0278f
C10 a_n1329_n2497# a_n2146_n3104# 4.31255f
C11 a_n1329_397# a_n2146_n3104# 4.24373f
C12 a_n1454_n2497# a_n2146_n3104# 8.79718f
C13 a_n1359_n2547# a_n2146_n3104# 7.76928f
C14 a_n1359_201# a_n2146_n3104# 7.63831f
.ends

.subckt transformed_c8e1cf40 a_n1789_n882# a_n1461_n882# a_n1914_n882# VSUBS
X0 VSUBS VSUBS VSUBS VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=11.97 ps=54.2 w=6.3 l=0.15
X1 a_n1461_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X2 a_n1789_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X3 a_n1461_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X4 a_n1789_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X5 a_n1461_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X6 a_n1461_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X7 a_n1789_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X8 a_n1789_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X9 a_n1461_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X10 a_n1789_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X11 VSUBS VSUBS VSUBS VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=0 ps=0 w=6.3 l=0.15
X12 a_n1461_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
X13 a_n1789_n882# a_n1789_n882# a_n1914_n882# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9925 pd=13.55 as=2.9925 ps=13.55 w=6.3 l=0.15
C0 a_n1914_n882# a_n1461_n882# 12.36918f
C1 a_n1789_n882# a_n1461_n882# 0.9224f
C2 a_n1914_n882# a_n1789_n882# 15.80642f
C3 a_n1461_n882# VSUBS 4.3451f
C4 a_n1789_n882# VSUBS 11.11302f
C5 a_n1914_n882# VSUBS 3.92834f
.ends

.subckt temp_diffpair_and_current_source diff_pair_5f8ec16b_0/a_n1329_397# diff_pair_5f8ec16b_0/a_n1359_201#
+ diff_pair_5f8ec16b_0/a_n1359_n2547# transformed_c8e1cf40_0/a_n1914_n882# transformed_c8e1cf40_0/a_n1789_n882#
+ diff_pair_5f8ec16b_0/a_n1454_n2497# diff_pair_5f8ec16b_0/a_n1329_n2497# VSUBS
Xdiff_pair_5f8ec16b_0 diff_pair_5f8ec16b_0/a_n1329_397# diff_pair_5f8ec16b_0/a_n1359_201#
+ diff_pair_5f8ec16b_0/a_n1359_n2547# diff_pair_5f8ec16b_0/a_n1454_n2497# diff_pair_5f8ec16b_0/a_n1329_n2497#
+ VSUBS diff_pair_5f8ec16b
Xtransformed_c8e1cf40_0 transformed_c8e1cf40_0/a_n1789_n882# transformed_c8e1cf40_0/a_n1461_n882#
+ transformed_c8e1cf40_0/a_n1914_n882# VSUBS transformed_c8e1cf40
C0 diff_pair_5f8ec16b_0/a_n1329_n2497# transformed_c8e1cf40_0/a_n1461_n882# 0.02805f
C1 diff_pair_5f8ec16b_0/a_n1329_397# transformed_c8e1cf40_0/a_n1914_n882# 0.01361f
C2 transformed_c8e1cf40_0/a_n1461_n882# diff_pair_5f8ec16b_0/a_n1454_n2497# 0.02217f
C3 diff_pair_5f8ec16b_0/a_n1329_397# transformed_c8e1cf40_0/a_n1461_n882# 0.04752f
C4 transformed_c8e1cf40_0/a_n1461_n882# VSUBS 3.2403f
C5 transformed_c8e1cf40_0/a_n1789_n882# VSUBS 9.46369f
C6 transformed_c8e1cf40_0/a_n1914_n882# VSUBS 2.88306f
C7 diff_pair_5f8ec16b_0/a_n1329_n2497# VSUBS 4.47231f
C8 diff_pair_5f8ec16b_0/a_n1329_397# VSUBS 4.986f
C9 diff_pair_5f8ec16b_0/a_n1454_n2497# VSUBS 8.79764f
C10 diff_pair_5f8ec16b_0/a_n1359_n2547# VSUBS 7.76955f
C11 diff_pair_5f8ec16b_0/a_n1359_201# VSUBS 7.63858f
.ends

.subckt opamp_6t_top VSS IB VIN VIP VOUT
Xtemp_diffpair_and_current_source_0 VOUT VIP VIN VSS IB VOUT VOUT VSUBS temp_diffpair_and_current_source
C0 VIP VOUT 0.14914f
C1 pmos_active_load_0/Unnamed_a5af299d$1_0/a_n1431_n1483# VOUT 0.80753f
C2 pmos_active_load_0/multiplier_b353b9ed_0/w_n51_n1086# VOUT 3.31286f
C3 pmos_active_load_0/multiplier_b353b9ed$1_0/a_238_n1050# VOUT 0.59025f
C4 pmos_active_load_0/multiplier_b353b9ed_0/a_238_n1050# VOUT 0.68299f
C5 VIN VIP 0.08389f
C6 pmos_active_load_0/multiplier_b353b9ed_0/a_n33_n1246# VOUT 0.78605f
C7 pmos_active_load_0/multiplier_b353b9ed_0/w_n51_n1086# pmos_active_load_0/Unnamed_a5af299d$1_0/a_n1431_n1483# 1.5569f
C8 pmos_active_load_0/Unnamed_a5af299d$1_0/a_n1431_n1483# pmos_active_load_0/multiplier_b353b9ed$1_0/a_238_n1050# 0.3764f
C9 pmos_active_load_0/multiplier_b353b9ed_0/w_n51_n1086# pmos_active_load_0/multiplier_b353b9ed$1_0/a_238_n1050# 0.4393f
C10 pmos_active_load_0/multiplier_b353b9ed_0/a_238_n1050# pmos_active_load_0/Unnamed_a5af299d$1_0/a_n1431_n1483# 0.03559f
C11 pmos_active_load_0/multiplier_b353b9ed_0/a_238_n1050# pmos_active_load_0/multiplier_b353b9ed_0/w_n51_n1086# 0.63466f
C12 IB VSS 1.11224f
C13 pmos_active_load_0/multiplier_b353b9ed_0/a_n33_n1246# pmos_active_load_0/Unnamed_a5af299d$1_0/a_n1431_n1483# 0.09998f
C14 VSS temp_diffpair_and_current_source_0/transformed_c8e1cf40_0/a_n1461_n882# 0.0269f
C15 pmos_active_load_0/multiplier_b353b9ed_0/a_n33_n1246# pmos_active_load_0/multiplier_b353b9ed_0/w_n51_n1086# 0.74334f
C16 pmos_active_load_0/multiplier_b353b9ed_0/a_n33_n1246# pmos_active_load_0/multiplier_b353b9ed$1_0/a_238_n1050# 0.01017f
C17 pmos_active_load_0/multiplier_b353b9ed_0/a_238_n1050# pmos_active_load_0/multiplier_b353b9ed_0/a_n33_n1246# 0.07762f
C18 VIN VOUT 0.16325f
C19 VIP VSUBS 9.13219f
C20 VIN VSUBS 9.28329f
C21 pmos_active_load_0/multiplier_b353b9ed_0/a_n33_n1246# VSUBS -0.53654f
C22 pmos_active_load_0/multiplier_b353b9ed_0/a_238_n1050# VSUBS 0.09986f
C23 pmos_active_load_0/Unnamed_a5af299d$1_0/a_n1431_n1483# VSUBS 5.02249f
C24 pmos_active_load_0/multiplier_b353b9ed_0/w_n51_n1086# VSUBS 24.76637f
C25 temp_diffpair_and_current_source_0/transformed_c8e1cf40_0/a_n1461_n882# VSUBS 3.22369f
C26 IB VSUBS 10.80239f
C27 VSS VSUBS 5.70194f
C28 VOUT VSUBS 26.16123f
.ends

